US07855194B2
3-Ethoxy-4-methyl-benzaldehyde [CAS RN 157143-20-9]
The title compound was prepared by reaction of commercially available 3-hydroxy-4-methyl-benzaldehyde with ethyl iodide in DMF using K2CO3 as base in analogy to the procedure described in M. J. Ashton, D. C. Cook, G. Fenton, J.-A. Karlsson, M. N. Palfreyman, D. Raeburn, A. J. Ratcliffe, J. E. Souness, S. Thurairatnam and N. Vicker J. Med. Chem. 1994, 37, 1696-1703.

reactant | 3-hydroxy-4-methyl-benzaldehyde | OC=1C=C(C=O)C=CC1C | C8H8O2
reactant | ethyl iodide | C(C)I | C2H5I
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Ethoxy-4-methyl-benzaldehyde | C(C)OC=1C=C(C=O)C=CC1C | C10H12O2
